US05385925
a) 2-n-Butyl-5-(benzoxazol-2-yl)-benzimidazole
1.43 g (12 mMol) of thionyl chloride are added dropwise at 10° C. with stirring to a suspension of 2.52 g (10 mMol) of 2-n-butyl-benzimidazole-5-carboxylic acid in 15 ml of N-methylpyrrolidinone. The mixture is stirred for a further 15 minutes at ambient temperature, then 1.31 g (11 mMol) of 2-aminophenol are added and the mixture is heated to 140° C. for 2 hours. The mixture is then poured onto about 50 g of ice and 5 ml of 30% sodium hydroxide solution are added with stirring. The crude product precipitated is suction filtered and purified by column chromatography (300 g of silica gel; eluant: methylene chloride+3% ethanol).

reactant | thionyl chloride | 12 mMol, 1.43 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-n-butyl-benzimidazole-5-carboxylic acid | 10 mMol, 2.52 g | C(CCC)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C12H14N2O2
reactant | 2-aminophenol | 11 mMol, 1.31 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | N-methylpyrrolidinone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | 2-n-Butyl-5-(benzoxazol-2-yl)-benzimidazole | C(CCC)C=1NC2=C(N1)C=CC(=C2)C=2OC1=C(N2)C=CC=C1 | C18H17N3O
